datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Brc1ccc2cc([O-:10])ccc2c1.NCCC[NH2+]CCCC[NH2+:21][H:20]>>Brc1ccc2cc([O:10][H:20])ccc2c1.NCCC[NH2+]CCCC[NH2:21] 10=20;20,21=21",
"CC(C)C[N-:10]C=S.C[N+:21](C)(Cc1ccccc1O)[H:20]>>CC(C)C[N:10](C=S)[H:20].C[N:21](C)Cc1ccccc1O 10=20;20,21=21",
"CC(C)[NH:10]C[Si](C)(C)C.O=[N+]([O-])c1ccccc1/C=N\[O:21][H:20]>>CC(C)[NH+:10](C[Si](C)(C)C)[H:20].O=[N+]([O-])c1ccccc1/C=N\[O-:21] 10=20;20,21=21",
"Cc1ccc(C(=S)[N:21](c2ccc(Br)cc2)[H:20])cc1.[O-]N=C1CCCC/C1=N\[O-:10]>>Cc1ccc(C(=S)[N-:21]c2ccc(Br)cc2)cc1.[O-]N=C1CCCC/C1=N\[O:10][H:20] 10=20;20,21=21",
"CN(C)C([O-])[OH+:21][H:20].c1cc([NH2:10])c2ccc[nH+]c2c1>>CN(C)C([O-])[OH:21].c1cc([NH2+:10][H:20])c2ccc[nH+]c2c1 10=20;20,21=21",
"[NH3+]c1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1.c1cc([N:10]2CCCCC2)ccc1N1CCOCC1>>[NH3+]c1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1.c1cc([N+:10]2([H:20])CCCCC2)ccc1N1CCOCC1 10=20;20,21=21",
"COc1ccc(C2CCC[NH+]2C)c[n:10]1.[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)NCC(=O)[O:21][H:20]>>COc1ccc(C2CCC[NH+]2C)c[n+:10]1[H:20].[NH3+]C(Cc1c[nH]c[nH+]1)C(=O)NCC(=O)[O-:21] 10=20;20,21=21",
"Brc1ccc(-c2oc(-c3ccccc3)c[n+:21]2[H:20])cc1.COc1c(Br)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:10]2Cc1ccccc1>>Brc1ccc(-c2oc(-c3ccccc3)c[n:21]2)cc1.COc1c(Br)cccc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:10]2(Cc1ccccc1)[H:20] 10=20;20,21=21",
"CC(C)(O)[O:21][H:20].Cc1cc([O-:10])ccc1O>>CC(C)(O)[O-:21].Cc1cc([O:10][H:20])ccc1O 10=20;20,21=21",
"COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n+:21]1[H:20].O=C([O-])C[S-:10]>>COc1cc(S(C)=O)ccc1-c1[nH]c2cccnc2[n:21]1.O=C([O-])C[S:10][H:20] 10=20;20,21=21",
"Cc1[nH][n+:21]([H:20])c(O)c1C(C)C.[O-]c1ccccc1C[N:10]1CCCCC1>>Cc1[nH][n:21]c(O)c1C(C)C.[O-]c1ccccc1C[N+:10]1([H:20])CCCCC1 10=20;20,21=21",
"Cc1ccc([N-:10]C(=S)c2ccc(Cl)cc2)cc1.O=C(C1(O)CCC1)[O:21][H:20]>>Cc1ccc([N:10](C(=S)c2ccc(Cl)cc2)[H:20])cc1.O=C(C1(O)CCC1)[O-:21] 10=20;20,21=21",
"COc1ccc(S(=O)(=O)[N:21](Cc2ccccc2)[H:20])cc1.[NH3+][C@H]1C[C@@H]1[NH2:10]>>COc1ccc(S(=O)(=O)[N-:21]Cc2ccccc2)cc1.[NH3+][C@H]1C[C@@H]1[NH2+:10][H:20] 10=20;20,21=21",
"CC(C=C(c1cccs1)c1cccs1)[N+:21]1([H:20])CCCCCCC1.O=P(O)(C([NH2+]Cc1cc[nH+]cc1)c1ccccc1O)[O-:10]>>CC(C=C(c1cccs1)c1cccs1)[N:21]1CCCCCCC1.O=P(O)(C([NH2+]Cc1cc[nH+]cc1)c1ccccc1O)[O:10][H:20] 10=20;20,21=21",
"Cc1cccc([O-:10])c1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1cccc([O:10][H:20])c1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C([O-])CCCC[NH2:10]>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C([O-])CCCC[NH2+:10][H:20] 10=20;20,21=21",
"C1CCN(C2CC[NH:10]CC2)CC1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C1CCN(C2CC[NH+:10]([H:20])CC2)CC1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C1C[NH:10]1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C1C[NH+:10]1[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(CN(C)C)[N:10](C)C.Cc1ncc(CO)c(CO)c1[O:21][H:20]>>CC(CN(C)C)[N+:10](C)(C)[H:20].Cc1ncc(CO)c(CO)c1[O-:21] 10=20;20,21=21",
"Nc1c2ccccc2[n+:21]([H:20])c2c(N)cccc12.[NH3+]CCCc1cc[n:10]cc1>>Nc1c2ccccc2[n:21]c2c(N)cccc12.[NH3+]CCCc1cc[n+:10]([H:20])cc1 10=20;20,21=21",
"CCCCCC/[NH+]=C/c1c(C)c[n+:21]([H:20])c(C)c1O.COc1cc(C[NH2:10])ccc1O>>CCCCCC/[NH+]=C/c1c(C)c[n:21]c(C)c1O.COc1cc(C[NH2+:10][H:20])ccc1O 10=20;20,21=21",
"C[NH+:21](c1cccc2ccccc12)[H:20].S=C1C=C(c2ccc([O-:10])cc2)SS1>>C[NH:21]c1cccc2ccccc12.S=C1C=C(c2ccc([O:10][H:20])cc2)SS1 10=20;20,21=21",
"CC1=CC(=[O:10])N(C)N1c1ccccc1.CSSC(CCO)=C(C)N(C=O)Cc1c[n+:21]([H:20])c(C)nc1N>>CC1=CC(=[O+:10][H:20])N(C)N1c1ccccc1.CSSC(CCO)=C(C)N(C=O)Cc1c[n:21]c(C)nc1N 10=20;20,21=21",
"Oc1ccc2c(c1)Cc1cc([NH2:10])ccc1-2.c1cc2c([n+:21]([H:20])c1)CCCC2>>Oc1ccc2c(c1)Cc1cc([NH2+:10][H:20])ccc1-2.c1cc2c([n:21]c1)CCCC2 10=20;20,21=21",
"CC(C)(C)n1cc[n+:21]([H:20])c1.C[n+]1ccc2cccc([O-:10])c2c1>>CC(C)(C)n1cc[n:21]c1.C[n+]1ccc2cccc([O:10][H:20])c2c1 10=20;20,21=21",
"O=C([C@H]1CC[C@@H](O)CC1)[O-:10].OB(O)c1ccc([NH2+:21][H:20])cc1>>O=C([C@H]1CC[C@@H](O)CC1)[O:10][H:20].OB(O)c1ccc([NH2:21])cc1 10=20;20,21=21",
"CC(C)(C(N)=S)[NH2:10].CCCCNc1nc[n+:21]([H:20])c2c1cnn2C>>CC(C)(C(N)=S)[NH2+:10][H:20].CCCCNc1nc[n:21]c2c1cnn2C 10=20;20,21=21",
"CCOP(=O)(NS(=O)(=O)c1ccccc1)[O-:10].Nc1ccc(O)c2c1ccc[n+:21]2[H:20]>>CCOP(=O)(NS(=O)(=O)c1ccccc1)[O:10][H:20].Nc1ccc(O)c2c1ccc[n:21]2 10=20;20,21=21",
"Clc1[nH]c2cc3c(cc2[n+:21]1[H:20])CCCC3.O=C(c1ccc(Cl)cc1)[O-:10]>>Clc1[nH]c2cc3c(cc2[n:21]1)CCCC3.O=C(c1ccc(Cl)cc1)[O:10][H:20] 10=20;20,21=21",
"CC(C)[NH:10]CC(=O)[O-].C[n+]1c2ccccc2nc2ccc([O:21][H:20])cc21>>CC(C)[NH+:10](CC(=O)[O-])[H:20].C[n+]1c2ccccc2nc2ccc([O-:21])cc21 10=20;20,21=21",
"NCCCNCCC[NH2:10].c1ccc([N+:21]2([H:20])CCCC2)cc1>>NCCCNCCC[NH2+:10][H:20].c1ccc([N:21]2CCCC2)cc1 10=20;20,21=21",
"CC(C)CCC[NH+](C)CCCNC(=O)/C=N/[O-:10].CCCCCC[NH+:21](Cc1ccc(C)cc1)[H:20]>>CC(C)CCC[NH+](C)CCCNC(=O)/C=N/[O:10][H:20].CCCCCC[NH:21]Cc1ccc(C)cc1 10=20;20,21=21",
"CC1=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N-:10]C1=S.O=C1CCC([O:21][H:20])=C1O>>CC1=CN([C@@H]2C[C@@H](O)[C@H](CO)O2)C(=O)[N:10]([H:20])C1=S.O=C1CCC([O-:21])=C1O 10=20;20,21=21",
